US03971819
A mixture of 3-amino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid (4 g), benzyl bromide (4.1 g), and ethanol (60 ml) was refluxed for 4 hours. After cooling, the precipitated ethyl 3-benzylamino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoate was isolated by filtration and recrystallized from ethanol. The compound was obtained with a melting point of 166°C.

reactant | 3-amino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoic acid | 4 g | NC=1C=C(C(=O)O)C=C(C1OC1=CC=C(C=C1)OCC1=CC=CC=C1)S(N)(=O)=O | C20H18N2O6S
reactant | benzyl bromide | 4.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 3-benzylamino-4-(4-benzyloxyphenoxy)-5-sulphamyl-benzoate | C(C1=CC=CC=C1)NC=1C=C(C(=O)OCC)C=C(C1OC1=CC=C(C=C1)OCC1=CC=CC=C1)S(N)(=O)=O | C29H28N2O6S
